US07868185B2
The crude product methyl 3-(4-nitrophenyl)-3-oxo-2-(2-(4-sulfophenyl)hydrazono)-propanoate (200 mg, 0.49 mmol) (synthesized as described for 11-1) was dissolved in ethanol (10 ml), and 4-fluorophenylhydrazine (96 mg, 0.59 mmol) and hydrochloric acid (37%, 0.2 ml) were added. The product 4-((1,5-dihydro-3-(4-nitrophenyl)-5-oxo-1-(4-fluorophenyl)-4H-pyrazol-4-ylidene)-hydrazino)-benzenesulfonic acid was isolated by filtration as a brown solid (yield 82%).

reactant | methyl 3-(4-nitrophenyl)-3-oxo-2-(2-(4-sulfophenyl)hydrazono)-propanoate | 0.49 mmol, 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)C(C(C(=O)OC)=NNC1=CC=C(C=C1)S(=O)(=O)O)=O | C16H13N3O8S
reactant | 4-fluorophenylhydrazine | 0.59 mmol, 96 mg | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-((1,5-dihydro-3-(4-nitrophenyl)-5-oxo-1-(4-fluorophenyl)-4H-pyrazol-4-ylidene)-hydrazino)-benzenesulfonic acid | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN(C(C1=NNC1=CC=C(C=C1)S(=O)(=O)O)=O)C1=CC=C(C=C1)F | C21H14FN5O6S
